US04946834
To a solution of 3-oxo-17β-(hydroxymethyl)-4-androstene (15 g, 0.05 mol) in 200 ml DMF was added 5.8 g (0.085 mol) imidazole followed by 9.7 g (0.065 mol) t-butyldimethylsilyl chloride. The reaction mixture was stirred at room temperature under argon, for 2.5 hours. The reaction mixture was then poured into 250 ml ice water and washed 3 times with ethyl acetate. The combined organic layers were washed twice with cold 5% hydrochloric acid and once each with saturated sodium bicarbonate solution and brine. The organic layer was dried over sodium sulfate and evaporated. Recrystallization from methanol afforded 16.9 g (82%) of 3-oxo-17β-(t-butyldimethylsilyloxymethyl)-4-androstene as a white crystalline solid.

reactant | 3-oxo-17β-(hydroxymethyl)-4-androstene | 0.05 mol, 15 g | O=C1C=C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)CO | C20H30O2
reactant | imidazole | 0.085 mol, 5.8 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 0.065 mol, 9.7 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 3-oxo-17β-(t-butyldimethylsilyloxymethyl)-4-androstene | 16.9 g, 82% | O=C1C=C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)CO[Si](C)(C)C(C)(C)C | C26H44O2Si
